US03959476
4-Amino-3-(2,6-dimethylbenzylidenehydrazino)-1,2,4-triazole hydrochloride (Compound II).
In an atmosphere of dry nitrogen, a solution of 9.25 g (0.05 mole) of 2,6-dimethylbromobenzene in 100 ml of ether was added dropwise with stirring to 1.2 g (0.05 g atom) of magnesium turnings in 20 ml of ether. The reaction was started by the addition of ethyl bromide and a crystal of iodine. When all the halide had been added, the solution was refluxed for 2 hours. 8.2 ml (0.052 mole) of triethyl orthoformate was added dropwise and the reaction mixture was refluxed for 1.5 hour and left overnight at room temperature. To the solution was added dropwise while stirring and cooling a mixture of 50 ml of concentrated hydrochloric acid and 50 ml of water. The stirring was continued for 30 minutes. The ether layer was separated and the ether removed by evaporating. To the residue was added a solution of 9.35 g (0.05 mole) 4-amino-3-hydrazino-1,2,4-triazole dihydrochloride in 130 ml of 75 percent ethanol. The mixture was stirred and heated at reflux for 5 hours. 600 ml of ethanol was added and the solution cooled. After filtration and evaporation of the solvent 3.6 g of the crude salt was obtained. After recrystallization from ethanol-2N hydrochloric acid, the product melts at 219°-220° (D).

reactant | 2,6-dimethylbromobenzene | 0.05 mole, 9.25 g | CC1=C(C(=CC=C1)C)Br | C8H9Br
reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | iodine | II | I2
reactant | triethyl orthoformate | 0.052 mole, 8.2 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | 4-amino-3-hydrazino-1,2,4-triazole dihydrochloride | 0.05 mole, 9.35 g | Cl.Cl.NN1C(=NN=C1)NN
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-Amino-3-(2,6-dimethylbenzylidenehydrazino)-1,2,4-triazole hydrochloride | Cl.NN1C(=NN=C1)NN=CC1=C(C=CC=C1C)C | InChI=1S/C11H14N6.ClH/c1-8-4-3-5-9(2)10(8)6-13-15-11-16-14-7-17(11)12;/h3-7H,12H2,1-2H3,(H,15,16);1H
